US05409927
1f) Z-(L)-Val-(L)-Phe-morpholin-4-ylamide
1.75 g of DCC are added to a solution of 2.14 g of Z-(L)-Val-OH in 80 ml of absolute ice-cooled methylene chloride and after stirring for 20 minutes at that temperature a solution of 2 g of H-(L)-Phe-morpholin-4-ylamide is added dropwise thereto over a period of 15 minutes. The reaction mixture is stirred for a further 24 hours at room temperature and the urea that forms is filtered off. The filtrate is washed in succession with aqueous sodium hydrogen carbonate solution and brine and, after drying over sodium sulfate, concentrated. Stirring with ether and removal of the insoluble residue by filtration yields, after concentration, the title compound which is processed further without additional purification. TLC Rf (D )=0.7.

reactant | DCC | 1.75 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-(L)-Val-OH | 2.14 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | H-(L)-Phe morpholin-4-ylamide | 2 g | N[C@@H](CC1=CC=CC=C1)C(=O)O.N1(CCOCC1)[NH-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Z-(L)-Val-(L)-Phe morpholin-4-ylamide | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1.N1(CCOCC1)[NH-] | InChI=1S/C22H26N2O5.C4H9N2O/c1-15(2)19(24-22(28)29-14-17-11-7-4-8-12-17)20(25)23-18(21(26)27)13-16-9-5-3-6-10-16;5-6-1-3-7-4-2-6/h3-12,15,18-19H,13-14H2,1-2H3,(H,23,25)(H,24,28)(H,26,27);5H,1-4H2/q;-1/t18-,19-;/m0./s1
